US07825128B2
(RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-cyclopropylsulfoximide
In the reaction of (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)butan-1-ol (151 mg, 0.53 mmol) with (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-phenylsulfoximide (147 mg, 0.48 mmol) according to procedure 5c, the desired product is obtained in 49% yield (130 mg) after chromatographic purification (silica gel, dichloromethane/ethanol (0%-20% ethanol)).

reactant | (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)butan-1-ol | 0.53 mmol, 151 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)CC)C=1SC=CC1 | C12H14ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-phenylsulfoximide | 0.48 mmol, 147 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C1=CC=CC=C1 | C15H16N2O3S
product | (RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-cyclopropylsulfoximide | 49% yield | C(C)OC(=O)N=S(=O)(C1CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@H](CC)CO)C=1SC=CC1 | C24H29N5O4S2
